US05114615
(3) Synthesis of 4-(4-Decyloxyphenyl)benzoic acid
To a solution of 4-acetyl-4'-decyloxy-1,1'-biphenyl (4.2 g, 0.012 mol) in 1,4-dioxane (20 ml), an aqueous solution of sodium hypobromite (40 ml) [freshly prepared from sodium hydroxide (7.9 g) and bromine (7.1 g)] was added dropwise at 20°-25° C., and stirring was continued for 2 h at 40° C. After cooling, sodium bisulfite was added to destroy excess sodium hypobromite and the mixture was acidified with hydrochloric acid. The resultant precipitate was filtered, washed with H2O and dried to give the title compound as a white amorphous powder; yield: 3.5 g (90.1%); mp 245.5°-250.0° C.

reactant | 4-acetyl-4'-decyloxy-1,1'-biphenyl | 0.012 mol, 4.2 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCCC | C24H32O2
reactant | sodium hypobromite | 40 ml | Br[O-].[Na+]
reactant | sodium hydroxide | 7.9 g | [OH-].[Na+]
reactant | bromine | 7.1 g | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Decyloxyphenyl)benzoic acid | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C23H30O3
